US04657897
2,2-Diphenyl-2-hydroxyethylamine hydrochloride
Treatment of ethyl glycinate hydrochloride (4.5 g) with phenylmagnesium chloride (from 0.39 mole each of bromobenzene and magnesium), as discussed by A. McKenzie and G. O. Wills J. Chem. Soc. 1925, 127, 283 (and references cited therein), affords the title compound (mp 191°-193° C.).

reactant | ethyl glycinate hydrochloride | 4.5 g | Cl.NCC(=O)OCC
reactant | phenylmagnesium chloride | 0.39 mole | C1(=CC=CC=C1)[Mg]Cl
product | 2,2-Diphenyl-2-hydroxyethylamine hydrochloride | Cl.C1(=CC=CC=C1)C(CN)(O)C1=CC=CC=C1 | InChI=1S/C14H15NO.ClH/c15-11-14(16,12-7-3-1-4-8-12)13-9-5-2-6-10-13;/h1-10,16H,11,15H2;1H
